US04150158
A mixture of freshly prepared 2,6-difluorobenzoyl isocyanate (1.85 g) and 3,4-dichlorophenyl isocyanate (1.89 g) is heated at 120° C. for a period of 16 hours, and then cooled. Recrystallisation of the solid which was obtained from ethyl acetate yielded 3-(3,4-dichlorophenyl)-6-(2,6-difluorophenyl)-3,4-dihydro-2H-1,3,5-oxadiazin-2,4-dione, white crystals, m.p. 196°-197° C.

reactant | 2,6-difluorobenzoyl isocyanate | 1.85 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
reactant | 3,4-dichlorophenyl isocyanate | 1.89 g | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
product | 3-(3,4-dichlorophenyl)-6-(2,6-difluorophenyl)-3,4-dihydro-2H-1,3,5-oxadiazin-2,4-dione | ClC=1C=C(C=CC1Cl)N1C(OC(=NC1=O)C1=C(C=CC=C1F)F)=O | C15H6Cl2F2N2O3
